US07390923B2
e) (2S)-3-(4-Acetylaminophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide
A solution of 4-acetamidophenol 0.62 g, 4.1 mmol) in THF (7 ml) was added dropwise to a stirred suspension of sodium hydride (0.27 g, 6.8 mmol, 60% dispersion in mineral oil) in THF (6 ml) and the temperature was kept below 5° C. during the addition. The mixture was stirred for 10 min and a solution of (2R)-3-bromo-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide (0.86 g, 2.7 mmol) in THF (7 ml) was added. The mixture was stirred at room temperature for 30 min and then at 60° C. for 5 h, and allowed to cool to the room temperature. The solvent was evaporated and the residue was dissolved to the mixture of water (80 ml) and ethyl acetate (80 ml). The pH was adjusted to 2-3 with 2 M HCl and the phases were separated. The organic phase was washed with 1 M Na2CO3 (6×30 ml), dried over Na2SO4 and evaporated. The oily residue was crystallised from ethyl acetate. The yield was 0.27 g. 1H NMR (DMSO-d6): 1.42 (3H, s), 1.99 (3H, s), 2.53 (3H, s), 3.93 (1H, d, J=9.6 Hz), 4.16 (1H, d, J=9.6 Hz), 6.20 (1H, bs), 6.84 (2H, d, J=9.0 Hz), 7.44 (2H, d, J=9.0 Hz), 7.88 (1H, dd, J=9.0 Hz and 2.3 Hz), 7.93 (1H, d, J=2.3 Hz), 8.04 (1H, d, J=9.0 Hz), 9.76 (1H, s), 10.15 (1H, bs).

reactant | 4-acetamidophenol | 4.1 mmol, 0.62 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | sodium hydride | 6.8 mmol, 0.27 g | [H-].[Na+]
reactant | (2R)-3-bromo-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | 2.7 mmol, 0.86 g | BrC[C@](C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)(C)O | C11H13BrN2O4
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | (2S)-3-(4-Acetylaminophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | C(C)(=O)NC1=CC=C(OC[C@](C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C)(C)O)C=C1 | C19H21N3O6
